2193-08-29 09:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2193-8-28**] 11:45 AM
   recieved patient from XRT, report given by SICU RN. pt had been in
   mapping then radiation today..
 ULTRASOUND - At [**2193-8-28**] 05:30 PM
   Abd
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-28**] 08:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-8-29**] 02:03 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 40 mcg/hour
   Other ICU medications:
   Fentanyl - [**2193-8-28**] 08:40 PM
   Famotidine (Pepcid) - [**2193-8-28**] 10:03 PM
   Midazolam (Versed) - [**2193-8-29**] 06:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2193-8-29**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 94 (71 - 103) bpm
   BP: 122/65(87) {90/45(59) - 179/123(338)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 70 kg
   Height: 70 Inch
             Total In:
                                                                  3,090 mL
                                                                  1,596 mL
   PO:
             TF:
   IVF:
                                                                  2,880 mL
                                                                  1,506 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    620 mL
   Urine:
                                                                  1,360 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,500 mL
                                                                    976 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/37/98.[**Numeric Identifier 176**]/25/2
   Ve: 11.3 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: ), Chest Tube--To Suction--minimal leak
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   11 K/uL
   126 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   26.4 %
   0.4 K/uL
        [image002.jpg]
                             [**2193-8-27**]  11:39 AM
                             [**2193-8-27**]  03:02 PM
                             [**2193-8-27**]  06:19 PM
                             [**2193-8-28**]  01:54 AM
                             [**2193-8-28**]  02:09 AM
                             [**2193-8-28**]  01:47 PM
                             [**2193-8-28**]  02:19 PM
                             [**2193-8-28**]  05:57 PM
                             [**2193-8-29**]  03:33 AM
                             [**2193-8-29**]  09:03 AM
   WBC
   0.3
   0.7
   0.7
   0.4
   Hct
   29.9
   28.5
   28.7
   26.4
   Plt
   47
   30
   17
   11
   Cr
   0.7
   0.6
   0.6
   TCO2
   25
   26
   29
   29
   27
   27
   Glucose
   120
   141
   129
   126
   Other labs: PT / PTT / INR:11.8/39.2/1.0, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:108/101, Alk Phos / T Bili:430/1.5,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:98.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:484 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR-
   Microbiology: Sputum-NGTD
   Pleural Fluid-NGTD
   Blood Culture-NGTD
   Assessment and Plan
   72 yo male with small cell lung cancer complicated by post obstructive
   pneumonia now with XRT started yesterday.
   1)Respiratory Failure-
   -Will continue with A/C support
   -Wean FIO2 as tolerated
   -Extubation limited by pneumonia and secretions and need to safely
   deliver XRT
   2)Pneumonia-Multilobar pneumonia, currently on broad spectrum
   antibiotics
   -Will continue with Vanco/Zosyn
   3)Pneumothorax-
   -Continue chest tube to suction
   -Will repeat CXR this morning
   -Will follow to resolution
   4)Hypotension-This likely represents persistence of sepsis from
   pulmonary source
   -Levophed as needed
will look to wean as possible
   -Will keep CVP towards [**9-16**] depending on pressor requirement
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2193-08-30 09:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Lung Cancer
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RADIATION THERAPY - At [**2193-8-29**] 09:30 AM
 MIDLINE - START [**2193-8-29**] 04:00 PM
   -PO dilt/sotalol in place
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-29**] 08:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-8-30**] 01:23 AM
   Metronidazole - [**2193-8-30**] 05:36 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-8-29**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.9
   Flowsheet Data as of  [**2193-8-30**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 87 (74 - 106) bpm
   BP: 97/54(68) {86/43(58) - 128/66(88)} mmHg
   RR: 7 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 70 kg
   Height: 70 Inch
             Total In:
                                                                  5,776 mL
                                                                    617 mL
   PO:
             TF:
             79 mL
   IVF:
                                                                  5,007 mL
                                                                    488 mL
   Blood products:
                                                                    549 mL
   Total out:
                                                                  1,790 mL
                                                                    430 mL
   Urine:
                                                                  1,600 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,986 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/39/70/25/3
   Ve: 8 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: ), no crepitus
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   33 K/uL
   122 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   107 mEq/L
   140 mEq/L
   25.7 %
   0.4 K/uL
        [image002.jpg]
                             [**2193-8-28**]  01:54 AM
                             [**2193-8-28**]  02:09 AM
                             [**2193-8-28**]  01:47 PM
                             [**2193-8-28**]  02:19 PM
                             [**2193-8-28**]  05:57 PM
                             [**2193-8-29**]  03:33 AM
                             [**2193-8-29**]  09:03 AM
                             [**2193-8-29**]  07:55 PM
                             [**2193-8-30**]  03:32 AM
                             [**2193-8-30**]  07:16 AM
   WBC
   0.7
   0.7
   0.4
   0.4
   0.4
   Hct
   28.5
   28.7
   26.4
   27.0
   25.7
   Plt
   30
   17
   11
   53
   33
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   29
   29
   27
   27
   29
   Glucose
   141
   129
   126
   130
   122
   Other labs: PT / PTT / INR:11.7/34.1/1.0, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:84/80, Alk Phos / T Bili:335/1.6,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:98.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:440 IU/L, Ca++:7.3
   mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR-SCL, ETT and chest tube in good position, modest increase
   in left sided opacity suggestive of effusion.  Persistency of patency
   of right lung
   Microbiology: [**8-27**]-_Sputum--yeast
   Assessment and Plan
   72 yo male with small cell lung cancer (metastatic) now with post
   obstructive pneumonia and now undergoing XRT for aid in palliation of
   obstructing lesion.  This is in the setting of neurtopenia through to
   today in the setting of chemotherapy.
   1)Respiratory Failure-Well tolerated support with XRT continuing and
   pneumonia under Rx
   -will move to PSV today
   -Have capacity to wean ventilator today
   -PTX has been well controlled
   -Will move to decrease sedation as mental status may well be primary
   barrier to extubation
   -Continue with XRT and pneumonia treatment today
   -Continue with nebs and mucormyst and chest tube
   2)Pneumonia-
   -ZOsyn/Vanco/Flagyl
   -Mucomyst nebs
   3)Lung Cancer-
   -continue XRT
   -Will continue to treat patient as neutropneia at this time
   4)Sepsis-
   -Wean norepi as tolerated
 PNEUMONIA, OTHER
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   20 Gauge - [**2193-8-29**] 06:33 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2193-08-31 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lighten up sedation, change from AC to Pressure support today, the
   only barrier is altered mental status
   - kept chest tube in as continues to be on positive ventilation
   - transfused 1.5u pRBC today
   - temp went up from 99.3 to 100.3 in the middle of transfusion of the
   2nd unit. transfusion stopped. blood was sent back to blood bank for
   workup of transfusion reactions
   - hct after transfusion of 1.5u pRBC went up from 25.7 to 27.9
   - pt had darkish stool x2, was grossly guaiac positive, repeat hct was
   29.9, re-assuring.
   - 3rd session XRT today. two more sessions (4th: monday, 5th: tuesday)
   - day 7 of abx for pneumonia today, finish course tomorrow
   - onc recs: continue daily neupogen 300mg daily till ANC >1000. keep
   platelet >20,000. continue supportive care.
   - IP recs: wean off pressor, extubate him soon.
   - weaned off pressor, but had to put back on levophed as BP was low
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-30**] 09:00 PM
   Metronidazole - [**2193-8-30**] 11:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-8-31**] 03:01 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-8-30**] 10:50 PM
   Midazolam (Versed) - [**2193-8-31**] 05:08 AM
   Fentanyl - [**2193-8-31**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-31**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.3
   HR: 103 (80 - 104) bpm
   BP: 124/74(91) {82/47(59) - 124/74(91)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 70 kg
   Height: 70 Inch
             Total In:
                                                                  2,630 mL
                                                                  1,458 mL
   PO:
             TF:
                                                                    204 mL
                                                                     78 mL
   IVF:
                                                                  1,566 mL
                                                                  1,241 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,235 mL
                                                                    240 mL
   Urine:
                                                                  1,045 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,395 mL
                                                                  1,218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.39/45/89.[**Numeric Identifier 126**]/24/1
   Ve: 11.5 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: intubated, sedated, not arousable to voice or touch
   Cardiovascular: irregular rhythm, regular rate, no murmur
   Respiratory / Chest: diminished breath sounds bilat, coarse breath
   sounds on lateral left chest (no crepitus noted over site of chest
   tube)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Skin:  no rash
   Neurologic: sedated, does not respond
   Labs / Radiology
   22 K/uL
   10.3 g/dL
   122 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   104 mEq/L
   136 mEq/L
   30.2 %
   0.7 K/uL
         [image002.jpg]
                             [**2193-8-29**]  03:33 AM
                             [**2193-8-29**]  09:03 AM
                             [**2193-8-29**]  07:55 PM
                             [**2193-8-30**]  03:32 AM
                             [**2193-8-30**]  07:16 AM
                             [**2193-8-30**]  04:44 PM
                             [**2193-8-30**]  06:36 PM
                             [**2193-8-31**]  12:31 AM
                             [**2193-8-31**]  04:31 AM
                             [**2193-8-31**]  05:22 AM
   WBC
   0.4
   0.4
   0.4
   0.7
   Hct
   26.4
   27.0
   25.7
   27.9
   29.9
   30.2
   Plt
   11
   53
   33
   22
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   27
   29
   27
   28
   Glucose
   126
   130
   122
   122
   Other labs:
   PT / PTT / INR:12.8/32.3/1.1,
   CK / CKMB / Troponin-T:/4/<0.01,
   ALT / AST:71/73, Alk Phos / T Bili:404/1.1,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:98.0 %, Mono:0.0 %, Eos:0.0
   %,
   Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:428 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   ANC: 20
   Micro:
   sputum [**8-27**]: no growth
   pleural fluid [**8-24**]: no growth
   MRSA [**8-23**]: no MRSA
   Blood cx [**8-24**]: NTD
   Imaging:
   RUQ scan [**8-28**]: prelim read-
   1. Innumerable liver metastases.
   2. No intra- or extrahepatic bile duct dilatation.
   3. Gallbladder wall not convincingly thickened, no cholelithiasis, a
   small
   amount of pericholecystic fluid. If acalculous cholecystitis is a
   consideration, consider a nuclear medicine hepatobiliary study.
   4. Patent main portal vein.
   CXR [**8-31**] my read : stable right lung field, worsening opacities of left
   lower lobe
   Assessment and Plan
   Pt is a 72 year old male with COPD, CAD presented with post-obstructive
   PNA, s/p bronch and stent placement with evolution of resolving PTX
   requiring chest tube placement.  Now hypotensive requiring pressors.
   .
   # Hypoxic Respiratory Failure:
   Patient intubated for his bronchoscopy and not able to be weaned.
   Likely multifactorial, from post-obstructive PNA, PNX, and underlying
   lung disease (COPD).  Patient self-extubated 2 nights ago, required
   re-intubation for hypoxia and WOB.  Was weaned to pressure control in
   SICU, but due to sedation today for XRT, patient back on AC and not
   spontaneously breathing.   Remains on AC.
   -continue Vanco/Zosyn for post-obstructive PNA ([**8-24**]=day1).  Continue
   flagyl.
   -wean fi02, consider PS. Will need to wean sedation as mental status is
   primary barrier to extubation. Follow clinically and ABGs.
   -patient may require more bronchoscopy as he continues to be at risk
   for lung collapse.
   -XRT has potential to cause increased edema in lung, so will monitor
   closely with daily CXR
   -continue nebs with mucomyst
   -d/c fluticasone given infection
   -continue chest tube for pneumothorax which is resolving, given
   positive pressure support
   -XRT for CA
   .
   #Hypotension: Most likely due to combination of sepsis, dilt gtt
   patient was on for afib and propofol.  [**Last Name (un) **] stim normal in SICU.
   -f/u pending cultures
   -changed propofol to fent/midaz
   -continued on levophed, and plan to wean pressors to maintain MAP >65
   -bolus fluids as needed (monitor CVP)
   .
   #Pneumothorax: Noted on admission, improvement on today;s CXR, no air
   leak noted.
   -continue chest tube while positive pressure vent is continued
   -daily CXR
   -monitor air leak, if changes dramatically assess for increased size of
   pneumo
   .
   #Pancytopenia: Likely [**1-7**] chemo and sepsis. Patient has not been hyper
   or hypothermic. Patient expected to nadir 1 week post-chemo which is
   now.
   -transfuse PLTs for bleeding or for <10.  Goal is above 20
   - today
s plts are 33, obtain evening cbc
   -transfuse HCT for <21 (will follow XRT recs) -> today
s hct 25.7.
   Obtain PM hct.
   -continue neupogen until counts return
   -neutropenic precautions
   -hold heparin SQ and provide pneumoboots
   -daily CBC and ANC
   -if no improvement, must consider medication effect though unlikely
   .
   #Transaminitis: LFTs trending down, likely due to shock on top of known
   liver mets.
   -RUQ U/S shows innumerable mets to liver
   -trend LFTs
   .
   #Afib: goal HR <100, on dilt and sotolol at home
   -continue sotalol [**Hospital1 7**] and dilt 30 QID
   -holding anticoagulation given thrombocytopenia
   .
   #Small Cell Lung CA: Followed by onc, would be due for next round of
   chemo next week, but pending return of his counts.  Had head CT with
   and without and no mets.  Per oncologist, patient has reasonable
   expectation for extending life by several months if he is able to get
   chemo (early in treatment course) but approximately 2% chance of cure.
   -f/u ONC recs
   -continue XRT and f/u rad onc recs
   -
   #?sinusitis seen on CT head.
   -patient covered by appropriate antibiotics
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-8-30**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   20 Gauge - [**2193-8-29**] 06:33 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-08-31 14:25:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo male with COPD, CAD,  afib, lung SCCA s/p chemo with
   post-obstructive PNA- Intubated for airway stent with failure to wean:
   re-intubated. Transferred to [**Hospital Unit Name 1**] [**8-28**] for palliative XRT. CT showed a
   right apical PTX now s/p  CT.
   24 Hour Events:
   Remains on AC ventilation
   transfused RBC's- febrile during 2nd transfusion, which was stopped
   3rd session of XRT with 2 add'l sessions planned on Mon/Tues
   Intermittently off/on pressors
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2193-8-30**] 11:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-8-31**] 03:01 AM
   Vancomycin - [**2193-8-31**] 07:53 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-8-31**] 10:00 AM
   Fentanyl - [**2193-8-31**] 02:00 PM
   Midazolam (Versed) - [**2193-8-31**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-31**] 02:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 96 (76 - 104) bpm
   BP: 109/61(80) {82/47(59) - 124/74(91)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 70 kg
   Height: 70 Inch
   CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  2,630 mL
                                                                  2,974 mL
   PO:
   TF:
                                                                    204 mL
                                                                    143 mL
   IVF:
                                                                  1,566 mL
                                                                  2,591 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,235 mL
                                                                    405 mL
   Urine:
                                                                  1,045 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,395 mL
                                                                  2,569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.39/45/89.[**Numeric Identifier 126**]/24/1
   Ve: 10.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse BS bilaterlaly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Sedated, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   22 K/uL
   122 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   104 mEq/L
   136 mEq/L
   30.2 %
   0.7 K/uL
        [image002.jpg]
                             [**2193-8-29**]  03:33 AM
                             [**2193-8-29**]  09:03 AM
                             [**2193-8-29**]  07:55 PM
                             [**2193-8-30**]  03:32 AM
                             [**2193-8-30**]  07:16 AM
                             [**2193-8-30**]  04:44 PM
                             [**2193-8-30**]  06:36 PM
                             [**2193-8-31**]  12:31 AM
                             [**2193-8-31**]  04:31 AM
                             [**2193-8-31**]  05:22 AM
   WBC
   0.4
   0.4
   0.4
   0.7
   Hct
   26.4
   27.0
   25.7
   27.9
   29.9
   30.2
   Plt
   11
   53
   33
   22
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   27
   29
   27
   28
   Glucose
   126
   130
   122
   122
   Other labs: PT / PTT / INR:12.8/32.3/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:71/73, Alk Phos / T Bili:404/1.1,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:98.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:428 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Imaging: Micro: sputum and pleural cultures NGTD, except for sparse
   yeast in sputum
   CXR: RML infiltrate
   Assessment and Plan
 PNEUMONIA, OTHER
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   72 yo male with small cell lung cancer (metastatic) with post
   obstructive pneumonia ; undergoing XRT for aid in palliation of
   obstructing lesion.
   1)Respiratory Failure:
   Acute respiratory failure: reasonable oxygenation and ventilation on
   current settings. MS [**First Name (Titles) **] [**Last Name (Titles) 6355**]
   Will wean vent starting with decrease PEEP to 5
   Wean sedation as tolerated
   Consider SBT later in the day depending on MS
    2)Pneumonia-
   On ZOsyn/Vanco/Flagyl; f/u cultures and will tailor abx accordingly
   3. Septic and hypovolemic shock:
   -Small decrease in levophed needs, remains pressor depending
   - Volume resuscitate given CVP of 6
   4)Lung Cancer-
   -continue XRT
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-8-30**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   20 Gauge - [**2193-8-29**] 06:33 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-09-01 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2193-8-31**] 05:44 PM
   c-diff
   - 1L LR boluses x 4 to help with BP and UOP (CVP goal of 14)
   - Onc recs:
   - IP recs: nothing new
   - decr PEEP to 8 -> ABG pH 7.44 pCO2 39 pO2 70
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-31**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-1**] 02:00 AM
   Metronidazole - [**2193-9-1**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-8-31**] 02:30 PM
   Fentanyl - [**2193-8-31**] 02:30 PM
   Famotidine (Pepcid) - [**2193-8-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-1**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 93 (74 - 108) bpm
   BP: 91/50(64) {84/50(63) - 131/76(97)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 70 kg
   Height: 70 Inch
    CVP: 11 (6 - 13)mmHg
   Total In:
                                                                  7,547 mL
                                                                  1,025 mL
   PO:
   TF:
                                                                  1,004 mL
                                                                    520 mL
   IVF:
                                                                  6,304 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                    540 mL
   Urine:
                                                                    490 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,967 mL
                                                                    485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 43.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/44/53/25/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: intubated, sedated, arousable to voice
   Cardiovascular: irregular rhythm, regular rate, no murmur
   Respiratory / Chest: diminished breath sounds bilat, chest tube in
   place, no air leak
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no edema
   Skin:  no rash
   Labs / Radiology
   13 K/uL
   9.8 g/dL
   135 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   104 mEq/L
   138 mEq/L
   29.0 %
   2.4 K/uL
        [image002.jpg]
                             [**2193-8-30**]  03:32 AM
                             [**2193-8-30**]  07:16 AM
                             [**2193-8-30**]  04:44 PM
                             [**2193-8-30**]  06:36 PM
                             [**2193-8-31**]  12:31 AM
                             [**2193-8-31**]  04:31 AM
                             [**2193-8-31**]  05:22 AM
                             [**2193-8-31**]  04:34 PM
                             [**2193-9-1**]  04:43 AM
                             [**2193-9-1**]  05:07 AM
   WBC
   0.4
   0.7
   2.4
   Hct
   25.7
   27.9
   29.9
   30.2
   29.0
   Plt
   33
   22
   13
   Cr
   0.5
   0.5
   0.7
   TCO2
   29
   27
   28
   27
   28
   Glucose
   122
   122
   135
   Other labs:
   PT / PTT / INR:13.3/33.8/1.1,
   ALT / AST:60/63, Alk Phos / T Bili:400/0.9,
   Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:1.3 mg/dL
   ANC: PND
   Micro:
   C diff neg x 1
   sputum [**8-27**]: no growth, sparse growth yeast
   pleural fluid [**8-24**]: no growth
   MRSA [**8-23**]: no MRSA
   Blood cx [**8-24**]: NTD
   Imaging:
   CXR [**9-1**] my read : worsened opacities on L lung, development of
   opacities on R as well
   Assessment and Plan
   Pt is a 72 year old male with COPD, CAD presented with post-obstructive
   PNA, s/p bronch and stent placement with evolution of resolving PTX
   requiring chest tube placement.  Now hypotensive requiring pressors.
   .
   # Hypoxic Respiratory Failure:
   Patient intubated for his bronchoscopy and not able to be weaned.
   Likely multifactorial, from post-obstructive PNA, PNX, and underlying
   lung disease (COPD).  Patient self-extubated 2 nights ago, required
   re-intubation for hypoxia and WOB.  Was weaned to pressure control in
   SICU, but due to sedation today for XRT, patient back on AC and not
   spontaneously breathing.   Remains on AC.
   -worsened CXR may indicate worsening PNA, collapse of lung from
   post-obstructive PNA or volume overload from aggressive fluid boluses
   yesterday
   -continue Vanco/Zosyn (day9 today) for post-obstructive PNA
   ([**8-24**]=day1).  Continue flagyl as well.
   - low pO2 on decr PEEP of 8, will incr PEEP back up to 10 today, incr
   FiO2 as well for better oxygenation
   -patient may require more bronchoscopy as he continues to be at risk
   for lung collapse.
   -XRT has potential to cause increased edema in lung, so will monitor
   closely with daily CXR
   -continue nebs with mucomyst
   -d/c fluticasone given infection
   -continue chest tube for pneumothorax which has resolved, given
   positive pressure support
   -XRT for CA
   -order new sputum cx
   .
   #Hypotension: Most likely due to combination of sepsis, dilt gtt
   patient was on for afib and propofol.  [**Last Name (un) **] stim normal in SICU.
   -f/u pending cultures
   -changed propofol to fent/midaz
   -pt currently requiring no pressure support
   -bolus fluids as needed (monitor CVP)
   -today
s goal of even or perhaps -500cc
   .
   #Pneumothorax: Noted on admission, improvement on today;s CXR, no air
   leak noted.
   -continue chest tube while positive pressure vent is continued, monitor
   air leak
   -daily CXR
   .
   #Pancytopenia: Likely [**1-7**] chemo and sepsis. Patient has not been hyper
   or hypothermic. Patient expected to nadir 1 week post-chemo which is
   now.
   -transfuse PLTs for bleeding or for <20 (today
s plts are 13 -> will
   transfuse)
   -transfuse HCT for <21 (will follow XRT recs) -> today
s hct stable at
   29.
   -continue neupogen with improving counts (f/u w.onc re: course)
   - f/u today
s ANC
   -neutropenic precautions
   -hold heparin SQ and provide pneumoboots
   -daily CBC and ANC
   .
   #Transaminitis: LFTs trending down, likely due to shock on top of known
   liver mets.
   -RUQ U/S shows innumerable mets to liver
   -trend LFTs
   .
   #Afib: goal HR <100, on dilt and sotolol at home
   -continue sotalol [**Hospital1 7**] and dilt 60 TID
   -holding anticoagulation given thrombocytopenia
   .
   #Small Cell Lung CA: Followed by onc, would be due for next round of
   chemo next week, but pending return of his counts.  Had head CT with
   and without and no mets.  Per oncologist, patient has reasonable
   expectation for extending life by several months if he is able to get
   chemo (early in treatment course) but approximately 2% chance of cure.
   -f/u ONC recs
   -continue XRT and f/u rad onc recs
   -
   #?sinusitis seen on CT head.
   -patient covered by appropriate antibiotics
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-9-1**] 03:56 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   20 Gauge - [**2193-8-29**] 06:33 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-09-01 08:27:00 Physician Attending Progress Note
TITLE: ICU Attending progress note
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo male with SCCa of lung, post-obstructive PNA s/p stent, and PTX
   24 Hour Events:
 STOOL CULTURE - At [**2193-8-31**] 05:44 PM
   c-diff
   Received fluids to maintain CVP>[**11-18**]
   Tolerated PEEP drop to 8
   Desats when positioned to the right
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-1**] 02:00 AM
   Metronidazole - [**2193-9-1**] 06:00 AM
   Vancomycin - [**2193-9-1**] 08:13 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2193-8-31**] 02:30 PM
   Fentanyl - [**2193-8-31**] 02:30 PM
   Famotidine (Pepcid) - [**2193-8-31**] 08:00 PM
   Other medications:
   Sotalol, GCSF, acetylcysteine, diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-1**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 74 (74 - 108) bpm
   BP: 97/53(67) {84/50(63) - 131/76(97)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.5 kg (admission): 70 kg
   Height: 70 Inch
   CVP: 11 (6 - 13)mmHg
   Total In:
                                                                  7,547 mL
                                                                  1,294 mL
   PO:
   TF:
                                                                  1,004 mL
                                                                    578 mL
   IVF:
                                                                  6,304 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                    540 mL
   Urine:
                                                                    490 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,967 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.39/44/53/25/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 106
   Physical Examination
   General: arousable to voice, able to follow simple commands
   HEENT: ETT, OGT
   Lungs: scattered rhonchi
   Cvirreg irreg
   Abd distended but soft
   Ext 1+ edema with pneumoboots
   Peripheral Vascular: +radial pulses
   Skin: normal turgor, no rashes
   Neurologic: Responds to: verbal commands, Movement: purposeful, Tone:
   normal
   Labs / Radiology
   9.8 g/dL
   13 K/uL
   135 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   104 mEq/L
   138 mEq/L
   29.0 %
   2.4 K/uL
        [image002.jpg]
   ANC pending
                             [**2193-8-30**]  03:32 AM
                             [**2193-8-30**]  07:16 AM
                             [**2193-8-30**]  04:44 PM
                             [**2193-8-30**]  06:36 PM
                             [**2193-8-31**]  12:31 AM
                             [**2193-8-31**]  04:31 AM
                             [**2193-8-31**]  05:22 AM
                             [**2193-8-31**]  04:34 PM
                             [**2193-9-1**]  04:43 AM
                             [**2193-9-1**]  05:07 AM
   WBC
   0.4
   0.7
   2.4
   Hct
   25.7
   27.9
   29.9
   30.2
   29.0
   Plt
   33
   22
   13
   Cr
   0.5
   0.5
   0.7
   TCO2
   29
   27
   28
   27
   28
   Glucose
   122
   122
   135
   Other labs: PT / PTT / INR:13.3/33.8/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:60/63, Alk Phos / T Bili:400/0.9,
   Differential-Neuts:2.0 %, Band:0.0 %, Lymph:98.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:2.6 mmol/L, Albumin:2.2 g/dL, LDH:428 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:1.3 mg/dL
   Cdiff negative x 1
   Sputum: sparse yeast
   CXR: interval increase in infiltrates with obscuring of both diaphragns
   Assessment and Plan
 PNEUMONIA, OTHER
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   72 yo male with small cell lung cancer (metastatic) with post
   obstructive pneumonia ; undergoing XRT for aid in palliation of
   obstructing lesion.
   1)Respiratory Failure:
   Initially tolerated decrease in PEEP though more hypoxic this morning
   Back off on fluids (goal even to slightly negative), increase PEEP,
   re-check sputum culture
   Otherwise continue AC Ventilation
   Remains on Vanc/zosyn/flagyl for post-obstructive PNA
   3. Septic and hypovolemic shock:
   Weaned off pressors this morning with fluid resusctiation
   Continue to support MAP
   4)Lung Cancer-
   -WBC better this morning, ANC still pending-clarify length of neupogen
   with Oncology team
   -continue XRT
   5. Afib: rate controlled, on sotalol and diltiazem
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-9-1**] 03:56 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   20 Gauge - [**2193-8-29**] 06:33 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2193-09-02 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-9-1**] 11:30 AM
   Showed nothing significant
minimal secretions
   - CXR yesterday worse, so held off on fluids
   - I/O goal: negative 500 -> given 10mg IV lasix X 1 at 11:20PM
   - AM ABG: 7.4/41/55 -> increase PEEP from 8 to 10.  Also increased FiO2
   from 50% to 60% (try to wean later).  ABG on these settings:
   7.39/42/70.
   - f/u rad onc recs: ask about course for neupogen -> continue neupogen
   until ANC > 1000.  Yesterday
s ANC was 1770 so neuopogen was stopped.
   -  platelets bumped appropriately w platelet transfusion
   - obtain sputum cx today
   - s/p bronch (performed by IP): minimal secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-1**] 07:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-2**] 02:00 AM
   Metronidazole - [**2193-9-2**] 05:49 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-9-1**] 09:56 PM
   Fentanyl - [**2193-9-2**] 12:53 AM
   Midazolam (Versed) - [**2193-9-2**] 12:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-2**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 82 (74 - 89) bpm
   BP: 102/52(70) {82/45(56) - 127/66(90)} mmHg
   RR: 15 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91.7 kg (admission): 70 kg
   Height: 70 Inch
    CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  3,366 mL
                                                                    967 mL
   PO:
   TF:
                                                                  1,531 mL
                                                                    461 mL
   IVF:
                                                                  1,227 mL
                                                                    286 mL
   Blood products:
                                                                    238 mL
   Total out:
                                                                  1,385 mL
                                                                    600 mL
   Urine:
                                                                    900 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,981 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/48/77.[**Numeric Identifier 143**]/26/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: sedated but responsive to commands
   HEENT: pupils responsive
   CHEST: irregular rhythm, rate 80s ; diffuse course breath sounds ; has
   red tattoo markings for XRT
   ABD: nontender, nondistended
   EXT: bilateral lower extremity edema
   Skin:  Not assessed
   Neurologic: Responds to verbal commands, can nod head in agreement
   Labs / Radiology
   53 K/uL
   8.9 g/dL
   126 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   29 mg/dL
   105 mEq/L
   138 mEq/L
   26.6 %
   8.0 K/uL
                             [**2193-8-31**]  04:31 AM
                             [**2193-8-31**]  05:22 AM
                             [**2193-8-31**]  04:34 PM
                             [**2193-9-1**]  04:43 AM
                             [**2193-9-1**]  05:07 AM
                             [**2193-9-1**]  09:33 AM
                             [**2193-9-1**]  12:47 PM
                             [**2193-9-1**]  05:05 PM
                             [**2193-9-1**]  08:18 PM
                             [**2193-9-2**]  03:27 AM
   WBC
   0.7
   2.4
   8.0
   Hct
   30.2
   29.0
   26.6
   Plt
   22
   13
   67
   53
   Cr
   0.5
   0.7
   1.0
   TCO2
   28
   27
   28
   26
   26
   28
   Glucose
   122
   135
   126
   Other labs: PT / PTT / INR:13.2/31.0/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:44/59, Alk Phos / T Bili:401/0.7,
   Amylase / Lipase:/91, Differential-Neuts:2.0 %, Band:0.0 %, Lymph:98.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:3.4 mmol/L, Albumin:2.0 g/dL,
   LDH:461 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR [**9-2**]:
   Bilateral airspace opacities improving
   Microbiology:
[**9-1**] Sputum GRAM STAIN (Final [**2193-9-1**]):
      [**9-29**] PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
[**8-31**] CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2193-9-1**]):
         Feces negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
   Pt is a 72 year old male with COPD, CAD presented with post-obstructive
   PNA, s/p bronch and stent placement with evolution of resolving PTX
   requiring chest tube placement.  Now hypotensive requiring pressors.
   .
   # Hypoxic Respiratory Failure:
   Likely multifactorial, from post-obstructive PNA, PTX, and underlying
   lung disease (COPD).  Patient had previously self-extubated, required
   re-intubation for hypoxia and WOB.  Was weaned to pressure control in
   SICU, but due to sedation yesterday for XRT, patient back on AC and not
   spontaneously breathing.   Remains on AC.  Had another bronch yesterday
   showing nothing significant.
   -worsened CXR may indicate worsening PNA, collapse of lung from
   post-obstructive PNA or volume overload from aggressive fluid boluses
   yesterday
   - Prepare patient for extubation tomorrow after final XRT (5 out of 5
   tomorrow morning)
   - Decrease volume with lasix -- Diurese w goal -1L for today
   - Call IP to let them know that pt likely to be extubated tomorrow and
   ask if they may want to do another Bronch beforehand
   - continue Vanco/Zosyn (day10 today) for post-obstructive PNA
   ([**8-24**]=day1).  Continue flagyl as well.
   - PEEP incr to 10 yesterday and incr FiO2 as well for better
   oxygenation
may be due to increased volume status
   - Pressure Support trial and try decreasing sedation as much as
   possible
 may need an
   -XRT has potential to cause increased edema in lung, so will monitor
   closely with daily CXR
 XRT (5 out of 5 tomorrow)
   -continue nebs with mucomyst
   -continue chest tube for pneumothorax which has resolved, given
   positive pressure support
   .
   #Hypotension: Stable now after weaned off pressors.  Most likely due to
   combination of sepsis, dilt gtt patient was on for afib and propofol.
   [**Last Name (un) **] stim normal in SICU.
   -f/u pending cultures
   - decrease sedation as tolerated; may need prn antipsychotic if becomes
   agitated
   -pt currently requiring no pressure support
   - avoid fluid boluses because patient appears volume overloaded
   .
   #Pneumothorax: Noted on admission, improvement on CXR, no air leak
   noted.
   -continue chest tube while positive pressure vent is continued, monitor
   air leak
   -daily CXR
   .
   #Pancytopenia: Likely [**1-7**] chemo and sepsis. Patient has not been hyper
   or hypothermic. Patient expected to nadir 1 week post-chemo, which was
   yesterday.
   -transfuse PLTs for bleeding or for <20
   -today
s hct stable at 26.  XRT recommends 2 units PRBCs
 will talk to
   XRT re: transfusion because we would prefer to not give him more volume
   -continue neupogen with improving counts (f/u w.onc re: course)
   - follow ANC
   -neutropenic precautions
   -hold heparin SQ and provide pneumoboots
   -daily CBC and ANC
   .
   #Transaminitis: LFTs trending down, likely elevated secondary to
   chemotherapy.  Likely would have been much higher if secondary to shock
   liver.
   -RUQ U/S showed innumerable mets to liver
   -continue to trend LFTs
   .
   #Afib: goal HR <100, on dilt and sotolol at home
   -continue sotalol [**Hospital1 7**] and dilt 60 TID
   -holding anticoagulation given thrombocytopenia
   .
   #Small Cell Lung CA: Followed by onc, would be due for next round of
   chemo next week, but pending return of his counts.  Had head CT with
   and without and no mets.  Per oncologist, patient has reasonable
   expectation for extending life by several months if he is able to get
   chemo (early in treatment course) but approximately 2% chance of cure.
   -f/u ONC recs
   -continue XRT (last XRT tomorrow) and f/u rad onc recs
   -
   #?sinusitis seen on CT head.
   -patient covered by appropriate antibiotics
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-9-2**] 04:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   20 Gauge - [**2193-8-29**] 06:33 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending resolution of above

2193-09-04 10:26:00 Physician Attending Progress Note
Chief Complaint: AFib, tachycardia, hypotension, pneumonia, acute
   respiratory failure, lung ca, anemia, pneumothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues on assist control with VT 550, PEEP 10, and FIO2 0.6.  O2
   sats down this AM.
   HR somewhat better controlled on oral diltiazem.
   WBC stable at 20.
   24 Hour Events:
 EKG - At [**2193-9-3**] 11:10 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-4**] 02:20 AM
   Metronidazole - [**2193-9-4**] 06:08 AM
   Vancomycin - [**2193-9-4**] 07:53 AM
   Infusions:
   Midazolam (Versed) - 0.8 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-9-3**] 10:45 AM
   Diltiazem - [**2193-9-3**] 12:54 PM
   Famotidine (Pepcid) - [**2193-9-4**] 07:52 AM
   Other medications:
   Sotalol, insulin, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-4**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 91 (77 - 124) bpm
   BP: 87/54(66) {72/44(55) - 118/65(86)} mmHg
   RR: 19 (14 - 41) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.4 kg (admission): 70 kg
   Height: 70 Inch
   CVP: 14 (10 - 15)mmHg
   Total In:
                                                                  2,999 mL
                                                                  1,515 mL
   PO:
   TF:
                                                                    723 mL
                                                                    664 mL
   IVF:
                                                                  1,916 mL
                                                                    640 mL
   Blood products:
   Total out:
                                                                  1,527 mL
                                                                    495 mL
   Urine:
                                                                  1,304 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,472 mL
                                                                  1,021 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/44/64/25/3
   Ve: 9.8 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Diminished: Right), Very diminished breath sounds on right
   relative to left
   Abdominal: Soft, [**Name (NI) 6027**], Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   64 K/uL
   134 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.5 mEq/L
   30 mg/dL
   102 mEq/L
   138 mEq/L
   29.0 %
   20.0 K/uL
        [image002.jpg]
                             [**2193-9-1**]  05:05 PM
                             [**2193-9-1**]  08:18 PM
                             [**2193-9-2**]  03:27 AM
                             [**2193-9-2**]  11:55 AM
                             [**2193-9-2**]  02:46 PM
                             [**2193-9-2**]  05:08 PM
                             [**2193-9-2**]  05:20 PM
                             [**2193-9-3**]  06:10 AM
                             [**2193-9-4**]  03:51 AM
                             [**2193-9-4**]  09:41 AM
   WBC
   8.0
   16.8
   20.7
   20.0
   Hct
   26.6
   30.3
   27.8
   29.0
   Plt
   67
   53
   63
   54
   64
   Cr
   1.0
   1.0
   1.1
   TCO2
   28
   28
   28
   30
   30
   30
   Glucose
   126
   133
   134
   Other labs: PT / PTT / INR:13.2/31.0/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:44/59, Alk Phos / T Bili:401/0.7,
   Amylase / Lipase:/91, Differential-Neuts:63.0 %, Band:25.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.0 g/dL,
   LDH:461 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR (5 AM): apparent clearing of right sided infiltrate;
   mediastinum and right hemi-diaphragm well delineated - concern about
   possible air, although no obvious pneumothorax.
   Assessment and Plan
 PNEUMONIA, OTHER
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   PNEUMOTHORAX
   ANEMIA
   ===============================
   Hypotension persists. It did not respond to phenylephrine yesterday and
   patient was started on norepinephrine with improvement. Urine output
   good yesterday; appears to be down slightly today. Will stop sotalol
   today. Echo pending. Blood cultures negative. High WBC may be due to
   neupogen. Still concerned that sedation also contributing to
   hypotension.
   Continues to have marginal oxygenation. Still has moderate secretions
   and persistent infiltrate on left lung. Antibiotics continue. Concern
   that chest tube is not functioning adequately; no variation in pressure
   with respiratory cycle and breath sounds . Plateau pressures, however,
   have been stable to improved. Repeat CXR in full upright position to
   reassess for pneumothorax. If none present, consider bronch to assess
   for mucus plug.
   Patient with diarrhea; C diff negative.
   Heart rate better controlled on diltiazem.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-9-3**] 06:40 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-09-05 12:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, afib, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No significant progress with decreasing supplemental oxygen or weaning
   vasopressors.
   Echo yesterday with mildly depressed LVEF.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-9-4**] 10:30 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-5**] 04:53 AM
   Vancomycin - [**2193-9-5**] 08:14 AM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-5**] 09:52 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2193-9-4**] 12:23 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-5**] 04:53 AM
   Famotidine (Pepcid) - [**2193-9-5**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-5**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.7
C (96.2
   HR: 80 (73 - 104) bpm
   BP: 100/52(70) {87/50(65) - 121/71(89)} mmHg
   RR: 17 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.4 kg (admission): 70 kg
   Height: 70 Inch
   CVP: 10 (9 - 24)mmHg
   Total In:
                                                                  3,711 mL
                                                                  1,791 mL
   PO:
   TF:
                                                                  1,587 mL
                                                                    865 mL
   IVF:
                                                                  1,614 mL
                                                                    766 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                  1,040 mL
   Urine:
                                                                    850 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,641 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/50/94.[**Numeric Identifier 126**]/27/1
   Ve: 7.9 L/min
   PaO2 / FiO2: 157
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : On left anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , Absent : , No(t)
   Rhonchorous: ), Very diminished breath sounds on the right thorax
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   69 K/uL
   165 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   34 mg/dL
   104 mEq/L
   139 mEq/L
   26.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2193-9-2**]  11:55 AM
                             [**2193-9-2**]  02:46 PM
                             [**2193-9-2**]  05:08 PM
                             [**2193-9-2**]  05:20 PM
                             [**2193-9-3**]  06:10 AM
                             [**2193-9-4**]  03:51 AM
                             [**2193-9-4**]  09:41 AM
                             [**2193-9-4**]  04:19 PM
                             [**2193-9-4**]  09:09 PM
                             [**2193-9-5**]  03:45 AM
   WBC
   16.8
   20.7
   20.0
   18.7
   Hct
   30.3
   27.8
   29.0
   26.3
   Plt
   63
   54
   64
   69
   Cr
   1.0
   1.1
   1.1
   TCO2
   28
   28
   30
   30
   30
   30
   30
   Glucose
   133
   134
   165
   Other labs: PT / PTT / INR:13.2/31.0/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:44/59, Alk Phos / T Bili:401/0.7,
   Amylase / Lipase:/91, Differential-Neuts:63.0 %, Band:25.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.0 g/dL,
   LDH:461 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   RESPIRATORY FAILURE
   PNEUMONIA
   ANEMIA
   =======================
   Concern about shunt through right lung because of decreased
   ventilation. Will try him on left side to determine if we get better
   oxygenation. Intermittent secretions being suctioned. Continue
   antibiotics.
   Persistent hypotension. Concern about role of sedation. Will try to
   reduce/stop versed today. CVP 12 on PEEP 10 despite postive fluid
   balance. Albumin  is 2 and he continues to third space fluid. Have
   reduced FIO2 to 0.5. If he tolerates this, will try to reduce PEEP.
   Heart rate well controlled on present regimen.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-9-5**] 01:29 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-09-06 04:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - goal was to slowly decrease FiO2 and then PEEP, but could not (see
   below)
   - try decreasing sedation, but be aware that he becomes agitated w
   sedation
   - call thoracics to assess chest tube--> didn't hear back
   - day# 13 of intubation, consider trach:
     - contact[**Name (NI) **] oncology about prognosis--> oncology doesn't feel trach
   is a good idea bc prognosis is so poor.  Mean lifespan of pt w
   extensive small cell such as this lives [**4-10**] mo on chemo, but onc team
   does not feel that this pt will likely reach stage where he can get
   chemo again. (would need to be extubated, off pressors, and platelets
   >100)
     - contact social work
     - contact[**Name (NI) **] daughter about possible trach--> she is not official HCP
   (pt does not have a HCP), but she will discuss all options with her
   siblings and come to conclusion
   --> ** FAMILY MTG on Saturday afternoon with siblings who live nearby
   ... who appear to be in favor of Trach at this time
   - day# 13 of antibiotics -- stop Vanco after day#14
   - increased Dilt to 60mg QID (from TID) b/c was increasing HR towards
   end of scheduled time
   - around 19:30, he desatted to 87%, so an ABG was drawn, which showed
   PaO2 of 58, so his FiO2 was turned back up to 60% (from 50%).
   ABG: 7.43/43/58/29
   - 23:45 --> Sats in low 90s on FiO2 60% PEEP 10, ABG: 7.36/52/66/31;
   increased Head of Bed, RT increased PEEP to 15 and gave albuterol,
   CXR:
   EKG: aflutter
   - sats improved w increased FiO2 to 100%, then backed down to 80%
   --> 0300 --> sats low 90s and heart rate increasing to 120s and
   occasional 140s, so RT did an alveolar recruitment (pt did not tolerate
   APRV-- HR rising 150s and BP dropping, so RT stopped APRV after 4 min,
   and levophed was maxed, given dilt dose early
   - sats improved to 99% on FiO2 70%...
   - 04:20am  93% on FiO2 60% 7.42/45/78/30
   Pt had episodes of desaturation during the night. Recruitment manuevers
   administered with no affect. Placed pt on APRV for 5 min, although pt
   did not tolerate, 02 sats increased to 99% on 80% then fio2 lowered to
   60%.  02 sats maintaining @ 97%.  Recruitment successful.
   At approx. midnight pt. notably desatting to high 80
s. Pao2 down to 66
   despite increase in Fio2. EKG and CXR done. Large L pleural effusion
   noted. Multiple vent changes made, along with recruitment breaths given
   which appears to have increased O2 sat at this time. Pt. not tolerating
   turning on either side at this time. He becomes tachycardic and
   Tachypneic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-5**] 07:26 PM
   Metronidazole - [**2193-9-5**] 09:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-6**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-9-5**] 07:26 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-5**] 10:06 PM
   Midazolam (Versed) - [**2193-9-5**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-6**] 04:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 90 (80 - 149) bpm
   BP: 104/63(78) {96/52(70) - 134/81(100)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 92.4 kg (admission): 70 kg
   Height: 70 Inch
    CVP: 15 (8 - 18)mmHg
   Total In:
                                                                  3,446 mL
                                                                  1,588 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    334 mL
   IVF:
                                                                  1,486 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                  1,634 mL
                                                                    240 mL
   Urine:
                                                                  1,024 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,812 mL
                                                                  1,348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 31 cmH2O
   SpO2: 94%
   ABG: 7.42/45/77.[**Numeric Identifier 143**]/28/3
   Ve: 7.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   GEN:  sedated, but responsive
   HEENT:  pupils reactive to light, ETT in place
   CHEST:  decreased breath sounds on right ; decreased breath sounds left
   base sounds
   CV: irreg rhythm with rate in 90s
   ABD: soft, nondistended
   GU: significant scrotal edema, similar to yesterday
   EXT: diffusely edematous
   NEURO: sedated, responsive to verbal commands to open eyes
   Labs / Radiology
   79 K/uL
   9.0 g/dL
   131 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   39 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   20.3 K/uL
        [image002.jpg]
                             [**2193-9-4**]  09:09 PM
                             [**2193-9-5**]  03:45 AM
                             [**2193-9-5**]  02:22 PM
                             [**2193-9-5**]  07:39 PM
                             [**2193-9-5**]  09:22 PM
                             [**2193-9-5**]  11:49 PM
                             [**2193-9-6**]  01:48 AM
                             [**2193-9-6**]  02:55 AM
                             [**2193-9-6**]  03:12 AM
                             [**2193-9-6**]  04:24 AM
   WBC
   18.7
   20.3
   Hct
   26.3
   27.1
   Plt
   69
   79
   Cr
   1.1
   1.1
   TCO2
   30
   28
   29
   30
   31
   31
   30
   30
   Glucose
   165
   131
   Other labs: PT / PTT / INR:13.2/31.0/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:44/59, Alk Phos / T Bili:401/0.7,
   Amylase / Lipase:/91, Differential-Neuts:63.0 %, Band:25.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Albumin:2.0 g/dL,
   LDH:461 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Pt is a 72 year old male with COPD, CAD presented with post-obstructive
   PNA, s/p bronch and stent placement with evolution of resolving PTX
   requiring chest tube placement.  Now hypotensive requiring pressors.
   # Hypoxic Respiratory Failure:  Saturations have decreased since
   yesterday to low 90s, which could be due to worsening of secretions or
   atelectasis.  Alveolar recruitment seemed to work well.  Daughter
   stated over phone that children and stepchildren of patient would agree
   to tracheostomy.
   - Maintain PEEP at current level and reduce FiO2 as tolerated
   - ask Thoracic Surgery about chest tube: never paged back
 will try
   again today
   - continue Vanco / Zosyn for post-obstructive PNA ([**8-24**]=day1) and
   Flagyl.  Stop vanc/zosy after 14 day course?; stop after 10/2 dose
   - XRT has potential to cause increased edema in lung, so will monitor
   closely with daily CXR
 XRT finished yesterday
   -continue nebs
   -Place on left side as right lobe does not ventilate; to increase
   oxygenation
   - Family meeting Saturday with stepchildren discuss trach as patient
   has been intubated for 14 days.
   - consult social work and talk to daughter
   #Hypotension:  Requiring levophed, did not tolerate phenylephrine.
   Titrating BP to MAP>65.  Appears that may be cardiogenic b/c levophed
   works but phenylephrine does not.  [**Month (only) 51**] also be a combination of
   sedation, beta blocker, and Afib.  [**Last Name (un) **] stim normal in SICU.   Had to
   increase levophed dose last night
   - f/u pending cultures
   - decrease sedation as tolerated; may need prn antipsychotic if becomes
   agitated
   - Continue to slowly wean levophed as bp can tolerate
   - no further diuresis today; goal of net even
   - continut to hold sotalol, which may help w pressures
   .
   #Afib:  Rate in 80s-90s mostly but bounces around occasionally w
   ventricular rates to 120s.  BPs may be low secondary to Afib.    Has
   history of Afib.   RVR appears exacerbated by agitation from intubation
   with decreased sedation; may also be secondary to decreased
   intravascular volume, though total volume up or secondary to
   infection.  Goal ventricular HR <100, on dilt and sotalol at home.
   - continue Dilt Q6hours, still have room to increase dilt dosing
   - hold sotalol as above
   -holding anticoagulation given thrombocytopenia
   .
   # Pneumothorax: Noted on admission, no signs of PTX on CXR.
   -continue chest tube while positive pressure vent is continued, monitor
   air leak
   - Consult surgery
   .
   # Pancytopenia: Likely secondary chemo and possibly sepsis, but
   resolving.   No longer neutropenic. today
s hct stable at 29. WBC
   stable at 20, iikely related to neupogen he was previously on.
   - transfuse PLTs for bleeding or for <20
   .
   # Transaminitis: AST/ALT trending down, Alk Phos/LDH stable.  likely
   elevated LFTs secondary to chemotherapy.  RUQ U/S showed many mets to
   liver.
   - continue to trend LFTs
   .
   # Small Cell Lung CA: Followed by onc.  Has very little chance of cure
   though chemo may prolong his life for a few months. Finished chest XRT
   - f/u ONC recs
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-9-5**] 03:46 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   Prophylaxis:
   DVT:  subcu heparin
   Stress ulcer:  famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:  contacts: daughter [**Name (NI) 115**], and [**Name (NI) **],
   stepson from second marriage
   Code status: Full code
   Disposition: ICU

2193-09-06 12:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, lung cancer, pneumonia, anemia,
   afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had desat last night. FIO2 had to be increased. Had recruitment
   maneuver last night with equivocal results. Eventually O2 sats came up
   on 80% on oxygen.
   Remains on levophed. Diltiazem infusion in place because of persistent
   tachycardia.
   Peak and plateau pressures are elevated today.
   24 Hour Events:
 EKG - At [**2193-9-6**] 12:50 AM
 BLOOD CULTURED - At [**2193-9-6**] 03:25 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-6**] 02:00 AM
   Metronidazole - [**2193-9-6**] 06:30 AM
   Vancomycin - [**2193-9-6**] 08:00 AM
   Piperacillin - [**2193-9-6**] 10:13 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Diltiazem - 15 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2193-9-5**] 10:08 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-6**] 06:31 AM
   Famotidine (Pepcid) - [**2193-9-6**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-6**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 122 (78 - 155) bpm
   BP: 118/66(84) {96/56(72) - 134/81(100)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.7 kg (admission): 70 kg
   Height: 70 Inch
   CVP: 299 (8 - 299)mmHg
   Total In:
                                                                  3,446 mL
                                                                  2,841 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    818 mL
   IVF:
                                                                  1,486 mL
                                                                  1,863 mL
   Blood products:
   Total out:
                                                                  1,634 mL
                                                                    710 mL
   Urine:
                                                                  1,024 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,812 mL
                                                                  2,131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 30 cmH2O
   SpO2: 90%
   ABG: 7.42/45/77.[**Numeric Identifier 143**]/28/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Diffuse expiratory wheezes, Diminished: On right, No(t) Absent : ,
   Rhonchorous: Coarse large airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   79 K/uL
   131 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   39 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   20.3 K/uL
        [image002.jpg]
                             [**2193-9-4**]  09:09 PM
                             [**2193-9-5**]  03:45 AM
                             [**2193-9-5**]  02:22 PM
                             [**2193-9-5**]  07:39 PM
                             [**2193-9-5**]  09:22 PM
                             [**2193-9-5**]  11:49 PM
                             [**2193-9-6**]  01:48 AM
                             [**2193-9-6**]  02:55 AM
                             [**2193-9-6**]  03:12 AM
                             [**2193-9-6**]  04:24 AM
   WBC
   18.7
   20.3
   Hct
   26.3
   27.1
   Plt
   69
   79
   Cr
   1.1
   1.1
   TCO2
   30
   28
   29
   30
   31
   31
   30
   30
   Glucose
   165
   131
   Other labs: PT / PTT / INR:13.2/31.0/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:39/72, Alk Phos / T Bili:763/0.9,
   Amylase / Lipase:/91, Differential-Neuts:71.0 %, Band:18.0 %, Lymph:2.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Albumin:2.0 g/dL,
   LDH:530 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: increased interstitial and alveolar infiltrates on the
   left.
   Assessment and Plan
 PNEUMONIA, OTHER
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   RESPIRATORY FAILURE
   =========================
   Respiratory status deteriorating with reduced oxygenation and increased
   airway resistance. Concern for resistant bacteria; will broaden
   antibiotic coverage. Also concern for pulmonary embolism given his
   tumor and the worsened tachycardia. Patient not sufficiently stable for
   CTA. Will obtain LENI's. Consider empiric anticoagulation. Unclear
   whether he benefitted from recruitment maneuver last night. If blood
   pressure stable on norepi, would try diuresing. Will remove PIC; small
   amount of pus at site. Add vasopressin.
   Tachyardia worse. Will restart Sotalol.
   Oncology has related to us that they believe his prognosis with respect
   to his cancer is quite poor, with an expected survival of less than [**4-10**]
   months. Unlikely that he will be candidate under best of circumstances
   for additional chemo should he survive this acute illness.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-9-6**] 04:54 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-09-07 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Brief recruitment made patient hypoxic.
   -Acutely decompensating intermittently all day on high PEEPs and FIO2
   of 60%. Intermittently increasing fio2 to 100% to increase spo2/pa02.
   Peep increased to 15, but plateau was increasing with peep increase
   from 32 to 36; patient still desaturating. Increasing peep is not
   correcting oxygenation, so decreased back to 10 to decrease barotrauma.
   TVs decreased from 8 cc/kg to 6 cc/kg. RR needed to be increased o/n
   b/c of respiratory acidosis.
   prednisone 60 mg given b/c some new wheezing noted
   cipro started for double coverage.
   dilt 60 QID and sotolal started; dilt gtt d/c'd
   vasopressin started
   -heparin gtt started empirically for concern of PE. Patient cannot go
   for CTA at this time, but [**Doctor Last Name **] would like it to happen in AM if
   possible. EKG does not show right heart strain pattern. lenis showed no
   DVT
   siblings were all in agreement that his father should be made DNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2193-9-6**] 06:00 PM
   Vancomycin - [**2193-9-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-7**] 01:52 AM
   Ciprofloxacin - [**2193-9-7**] 04:00 AM
   Metronidazole - [**2193-9-7**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 950 units/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-9-6**] 06:45 PM
   Famotidine (Pepcid) - [**2193-9-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-7**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 57 (57 - 155) bpm
   BP: 101/54(71) {94/50(67) - 139/80(100)} mmHg
   RR: 26 (18 - 41) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.7 kg (admission): 70 kg
   Height: 70 Inch
    CVP: 299 (11 - 299)mmHg
   Total In:
                                                                  5,097 mL
                                                                  1,219 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    488 mL
   IVF:
                                                                  3,027 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                  1,272 mL
                                                                    190 mL
   Urine:
                                                                  1,112 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,825 mL
                                                                  1,029 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 600) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: 7.36/47/197//0
   Ve: 12.7 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Diffuse expiratory wheezes, Diminished: On right, No(t) Absent : ,
   Rhonchorous: Coarse large airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   79 K/uL
   9.0 g/dL
   131 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   39 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   20.3 K/uL
        [image002.jpg]
                             [**2193-9-5**]  09:22 PM
                             [**2193-9-5**]  11:49 PM
                             [**2193-9-6**]  01:48 AM
                             [**2193-9-6**]  02:55 AM
                             [**2193-9-6**]  03:12 AM
                             [**2193-9-6**]  04:24 AM
                             [**2193-9-6**]  11:58 AM
                             [**2193-9-6**]  02:35 PM
                             [**2193-9-7**]  01:30 AM
                             [**2193-9-7**]  03:06 AM
   WBC
   20.3
   Hct
   27.1
   Plt
   79
   Cr
   1.1
   TCO2
   30
   31
   31
   30
   30
   29
   29
   30
   28
   Glucose
   131
   Other labs: PT / PTT / INR:13.2/150.0/1.1, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:39/72, Alk Phos / T Bili:763/0.9,
   Amylase / Lipase:/91, Differential-Neuts:71.0 %, Band:18.0 %, Lymph:2.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL,
   LDH:530 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Pt is a 72 year old male with COPD, CAD presented with post-obstructive
   PNA, s/p bronch and stent placement with evolution of resolving PTX
   requiring chest tube placement.  Now hypotensive requiring pressors and
   hypoxic despite increasing FiO2 and PEEP.
   # Hypoxic Respiratory Failure:  Saturations have decreased since
   yesterday to low 90s, which could be due to worsening PNA, PE,
   effusions.  Alveolar recruitment seemed equivical and patient did not
   tolerate well
   - Attempt to increase oxygenation: Increase PEEP, decrease TVs, and
   increase FiO2 to maintain O2 sats in 90s
   - Broaden PNA coverage. Will double cover for pseudomonus with cipro
   - Continue Vanco / Zosyn for post-obstructive PNA ([**8-24**]=day1) and
   Flagyl.  Stop vanc/zosy after 14 day course, stop after 10/2 dose
   - Mini-Bal for culture
   - LENI
s today and consider empiric anticoagulation
   -continue nebs
   - Diurese if stable hemodynamically
   - 60 mg prednisone now as increased wheezing on exam
   - Family meeting Saturday with stepchildren discuss trach and code
   status as patient has been intubated for 14 days.
   - consult social work and talk to daughter
   - d/w oncologist if he can write formal rec of clinical prognosis in
   chart
   #Hypotension:  Requiring levophed at moderate doses, did not tolerate
   phenylephrine.  Titrating BP to MAP>65.
   - Add vasopressin today
   - f/u pending cultures
   - decrease sedation as tolerated; may need prn antipsychotic if becomes
   agitated
   - Continue to slowly wean levophed as bp can tolerate
   - no further diuresis today; goal of net even
   - IV tip of PICC had pus oozing, will send tip for culture
   .
   #Afib:  Rate in 80s-90s mostly throughout morning increasing to 130s
   140s..  BPs may be low secondary to Afib.    Has history of Afib.   RVR
   appears exacerbated by agitation from intubation with decreased
   sedation; may also be secondary to decreased intravascular volume,
   though total volume up or secondary to infection.  Goal ventricular HR
   <100, on dilt and sotalol at home.
   - continue Dilt Q6hours, still have room to increase dilt dosing
   - Restart sotalol as HR is not controlled by dilt gtt
   -holding anticoagulation given thrombocytopenia
   .
   # Pneumothorax: Noted on admission, no signs of PTX on CXR.
   -continue chest tube while positive pressure vent is continued, monitor
   air leak
   .
   # Pancytopenia: Likely secondary chemo and possibly sepsis, but
   resolving.   No longer neutropenic. today
s hct stable at 29. WBC
   stable at 20, iikely related to neupogen he was previously on.
   - transfuse PLTs for bleeding or for <20
   .
   # Transaminitis: AST/ALT trending down, Alk Phos/LDH stable.  likely
   elevated LFTs secondary to chemotherapy.  RUQ U/S showed many mets to
   liver.
   - continue to trend LFTs
   .
   # Small Cell Lung CA: Followed by onc.  Has very little chance of cure
   though chemo may prolong his life for a few months. Finished chest XRT
   - f/u Onc recs
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-9-6**] 04:54 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Midline - [**2193-8-29**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-09-07 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - STOP [**2193-9-6**] 02:45 PM
   -Patient with worsening hypoxemia and increased PEEP trialed but not
   with any signfiicant improvement.
   -Recruitment manouvers not tolerated
   -Vt decreased to ARDSnet volumes
   -Patient maintained on Heparin gtt at this time and no further studies
   for PE pursued
   -Prednisone started
   -Cipro started
   -LENI negative
   -
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2193-9-6**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-9-7**] 01:52 AM
   Ciprofloxacin - [**2193-9-7**] 04:00 AM
   Metronidazole - [**2193-9-7**] 06:00 AM
   Vancomycin - [**2193-9-7**] 08:23 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 950 units/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-9-6**] 06:45 PM
   Famotidine (Pepcid) - [**2193-9-7**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2193-9-7**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 67 (57 - 155) bpm
   BP: 105/61(77) {94/50(67) - 139/80(100)} mmHg
   RR: 26 (18 - 41) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.7 kg (admission): 70 kg
   Height: 70 Inch
             Total In:
                                                                  5,166 mL
                                                                  2,005 mL
   PO:
             TF:
                                                                  1,749 mL
                                                                    754 mL
   IVF:
                                                                  3,027 mL
                                                                  1,021 mL
   Blood products:
   Total out:
                                                                  1,272 mL
                                                                    360 mL
   Urine:
                                                                  1,112 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,894 mL
                                                                  1,645 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 460 (460 - 600) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 27.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/47/197/25/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   116 K/uL
   240 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   47 mg/dL
   98 mEq/L
   134 mEq/L
   25.2 %
   24.9 K/uL
        [image002.jpg]
                             [**2193-9-5**]  11:49 PM
                             [**2193-9-6**]  01:48 AM
                             [**2193-9-6**]  02:55 AM
                             [**2193-9-6**]  03:12 AM
                             [**2193-9-6**]  04:24 AM
                             [**2193-9-6**]  11:58 AM
                             [**2193-9-6**]  02:35 PM
                             [**2193-9-7**]  01:30 AM
                             [**2193-9-7**]  03:06 AM
                             [**2193-9-7**]  06:04 AM
   WBC
   20.3
   24.9
   Hct
   27.1
   25.2
   Plt
   79
   116
   Cr
   1.1
   1.3
   TCO2
   31
   31
   30
   30
   29
   29
   30
   28
   Glucose
   131
   240
   Other labs: PT / PTT / INR:16.1/150.0/1.4, CK / CKMB /
   Troponin-T:/4/<0.01, ALT / AST:39/72, Alk Phos / T Bili:763/0.9,
   Amylase / Lipase:/91, Differential-Neuts:71.0 %, Band:18.0 %, Lymph:2.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL,
   LDH:530 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR-Persistent bilateral infiltrates--some improvement in left
   base aeration.
   Assessment and Plan
   72 yo male with respiratory failure in the setting of metastatic lung
   cancer now with persistent and worsening hypoxemia despite continued
   active pursuit of all possible medical interventions to try to
   stabilize oxygenation.  This course has been complicated by worsening
   hypotension and recurrent atrial arrythmia.
   1)Respiratory Failure-Severe ARDS and hypoxemia persisting without
   significant response to interventions pursued to look to recruit lung
   volumes
interestingly patient has had improvement in LLL at the end of
   yesterday.
   -Will maintain increased PEEP and look to wean FIO2 as possible
   -Will follow CXR for any changes and repeat in AM
   -Continue with broad spectrum ABX--Cipro/Flagyl/Vanco/Zosyn
   -Will continue treatment for PE with heparin
   -Follow sputum results
   -Will continue systemic steroids for 3 day course
   -Continue Atrovent/Albuterol
   2)Shock-_Septic, likely pulmonary source
   -Levophed to wean as tolerated
   -Will IVF bolus as needed
   3)Atrial Fibrillation-
   -Continue with Sotalol
   -Dil as needed
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 ATRIAL FIBRILLATION (AFIB)
 PLEURAL EFFUSION, ACUTE
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-9-7**] 07:02 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-24**] 01:30 PM
   Arterial Line - [**2193-8-24**] 01:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: [**Doctor First Name 10474**] son is currently functioning as
   lead decision maker
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes